US06992094B1
6-[3-[5-(tert-Butyldimethylsilanyloxy)pentyloxy]-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylselanyl]nicotinic acid
In a manner similar to that of Example 2, by reaction of 312 mg (0.49 mmol) of ethyl 6-[3-[5-(tert-butyldimethylsilanyloxy)pentyloxy]-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylselanyl]nicotinate with 213 mg (5.3 mmol) of sodium hydroxide in a THF/ethanol mixture (5 ml/5 ml), 210 mg (71%) of a yellow powder are obtained. m.p.: 161° C.

reactant | ethyl 6-[3-[5-(tert-butyldimethylsilanyloxy)pentyloxy]-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylselanyl]nicotinate | 0.49 mmol, 312 mg | [Si](C)(C)(C(C)(C)C)OCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C33H51NO4SeSi
reactant | sodium hydroxide | 5.3 mmol, 213 mg | [OH-].[Na+]
solvent | THF ethanol | 5 ml | C1CCOC1.C(C)O
product | 6-[3-[5-(tert-Butyldimethylsilanyloxy)pentyloxy]-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylselanyl]nicotinic acid | [Si](C)(C)(C(C)(C)C)OCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)O)C=C1 | C31H47NO4SeSi
